US05162308
Preparation of 1-Allyl-2,4,5-tribromopyrrole-3-carbonitrile
Potassium t-butoxide (0.75 g, 6.7 mmol) is added portionwise at room temperature to a solution of 2,4,5-tribromopyrrole-3-carbonitrile (2.0 g, 6.1 mmol) in anhydrous tetrafuran (20 mL). After 30 minutes allyl iodide (1.12 g, 6.7 mmol) is added dropwise and then refluxed for 2 hours. Work-up as described in Example 15 gives the product as a pale pink liquid (2.1 g).

reactant | Potassium t-butoxide | 6.7 mmol, 0.75 g | CC(C)([O-])C.[K+]
reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 6.1 mmol, 2.0 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | allyl iodide | 6.7 mmol, 1.12 g | C(C=C)I | C3H5I
product | 1-Allyl-2,4,5-tribromopyrrole-3-carbonitrile | 2.1 g | C(C=C)N1C(=C(C(=C1Br)Br)C#N)Br | C8H5Br3N2
